US07189754B2
Methyl (2S,4EZ)-4-(methoxyimino)-1-[4-(3-methyl-2-pyridinyl)benzoyl]-2-pyrrolidinecarboxylate
Following the general method as outlined in Example 4 (Method B), starting from 1-tert-butyl 2-methyl (2S,4EZ)-4-(methoxyimino)-1,2-pyrrolidinedicarboxylate and 4-(3-methyl-2-pyridinyl)benzoic acid, the title compound was obtained, after flash-chromatography (eluent cyclohexane/ethyl acetate 8:2), as a mixture of two isomers in 50% yield (100% purity by HPLC).

reactant | 1-tert-butyl 2-methyl (2S,4EZ)-4-(methoxyimino)-1,2-pyrrolidinedicarboxylate | CON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C12H20N2O5
reactant | 4-(3-methyl-2-pyridinyl)benzoic acid | CC=1C(=NC=CC1)C1=CC=C(C(=O)O)C=C1 | C13H11NO2
product | Methyl (2S,4EZ)-4-(methoxyimino)-1-[4-(3-methyl-2-pyridinyl)benzoyl]-2-pyrrolidinecarboxylate | 50% yield | CON=C1C[C@H](N(C1)C(C1=CC=C(C=C1)C1=NC=CC=C1C)=O)C(=O)OC | C20H21N3O4
